US07973178B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-tert-butoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzoic acid (6.18 mmol, 2.64 g) and acetonitrile (18.5 mL) were charged to a vessel. The contents were stirred and cooled to 0° C. 2-Chloro-4,6-dimethoxy-1,3,5-triazine (6.78 mmol, 1.19 g) was added to the slurry followed by an addition of N-methylmorpholine (8.11 mmol, 0.82 g), added over 20 minutes. The reaction was held for approximately 1 hour at 0° C. and allowed to warm up to ambient. N-methylaminopyrazole (6.79 mmol, 0.66 g) was added over 20 minutes and the reaction held at ambient temperature until the reaction was complete. Water (7 mL) was added to the reaction mixture and the acetonitrile removed by distillation at reduced pressure. Ethyl acetate (32 mL), water (7 mL) and sodium bicarbonate solution (10% by weight, 26 mL) were added to the resultant slurry. The bi-phasic liquor was separated and the ethyl acetate phase sequentially washed with further sodium bicarbonate (10% by weight, 13 mL), water (13 mL), 2M hydrochloric acid (2×13 mL), and then with water (2×13 mL). The washed organic phase was azeodistilled at reduced pressure, removing water and solvent, to give a light brown foam (2.9 g, 90% yield).

reactant | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzoic acid | 6.18 mmol, 2.64 g | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC(C)(C)C)C)C=C1 | C24H29NO6
reactant | 2-Chloro-4,6-dimethoxy-1,3,5-triazine | 6.78 mmol, 1.19 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | 8.11 mmol, 0.82 g | CN1CCOCC1 | C5H11NO
reactant | N-methylaminopyrazole | 6.79 mmol, 0.66 g | CNN1N=CC=C1 | C4H7N3
solvent | Water | 7 mL | O | H2O
solvent | acetonitrile | 18.5 mL | C(C)#N | C2H3N
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-tert-butoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 2.9 g, 90% yield | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC(C)(C)C)C)C=C1 | C28H34N4O5
